US03984441
In 80 volume parts of diemthylformamide there is dissolved 25 parts of orthohydroxyacetophenone and while the solution is externally cooled to about -20°C with dry ice-acetone, 80 volume parts of tetrachloropyrophosphate is added in small installments. The mixture is stirred at room temperature for 13 hours. The reaction mixture is then poured into ice-water and the resulting crystals are recovered by filtration, washed with water and ethanol and finally recrystallized from acetone. There is obtained a 19.6 parts yield of 4-oxo-4H-1-benzopyran-3-carboxaldehyde, as colorless crystals, melting at 152°-153°C.

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | orthohydroxyacetophenone | OC1=C(C=CC=C1)C(C)=O | C8H8O2
product | 4-oxo-4H-1-benzopyran-3-carboxaldehyde | O=C1C(=COC2=C1C=CC=C2)C=O | C10H6O3
